US07459448B2
9-Chloro-2-[4-(3-pyrrolidin-1-yl-prop-1-ynyl)-phenylamino]-5H,7H-benzo[b]-pyrimido[4,5-d]azepin-6-one (I-47)
In a manner similar to that described for Method O, 9-chloro-2-(4-iodo-phenylamino)-5H,7H-benzo[b]pyrimido[4,5-d]azepin-6-one (I-36) and 1-(prop-2-ynyl)pyrrolidine were converted to I-47 (52%): HRMS Calcd. for C25H22ClN5O: 444.1591, Found 444.1589.

reactant | 9-chloro-2-(4-iodo-phenylamino)-5H,7H-benzo[b]pyrimido[4,5-d]azepin-6-one | ClC=1C=CC2=C(NC(CC3=C2N=C(N=C3)NC3=CC=C(C=C3)I)=O)C1 | C18H12ClIN4O
reactant | 1-(prop-2-ynyl)pyrrolidine | C(C#C)N1CCCC1 | C7H11N
product | 9-Chloro-2-[4-(3-pyrrolidin-1-yl-prop-1-ynyl)-phenylamino]-5H,7H-benzo[b]-pyrimido[4,5-d]azepin-6-one | ClC=1C=CC2=C(NC(CC3=C2N=C(N=C3)NC3=CC=C(C=C3)C#CCN3CCCC3)=O)C1 | C25H22ClN5O
